US08349885B2
Preparation 17: Synthesis of 7-nitro-5-phenoxy-2-pyridin-2-yl-1H-indole
(4-Phenoxy-2-nitrophenyl)hydrazine hydrochloride (10 g, 49 mmol) and 2-acetylpyridine (5.5 ml, 49 mmol) were reacted according to the same procedures as Preparations 4 to 5 to give the title compound (2 g, Yield 16%).

reactant | (4-Phenoxy-2-nitrophenyl)hydrazine hydrochloride | 49 mmol, 10 g | Cl.O(C1=CC=CC=C1)C1=CC(=C(C=C1)NN)[N+](=O)[O-]
reactant | 2-acetylpyridine | 49 mmol, 5.5 ml | C(C)(=O)C1=NC=CC=C1 | C7H7NO
product | 7-nitro-5-phenoxy-2-pyridin-2-yl-1H-indole | 2 g, Yield 16% | [N+](=O)([O-])C=1C=C(C=C2C=C(NC12)C1=NC=CC=C1)OC1=CC=CC=C1 | C19H13N3O3
